US08685975B2
To a suspension of 4-(furan-2-yl)-2,6-dimethoxyphenol (0.493 g, 2.24 mmol) in anhydr DMF (10 mL) under argon was added Cs2CO3 (1.2 g, 3.7 mmol) and iodoethane (0.22 mL, 2.7 mmol). The mixture was stirred for 20 min then heated at 80° C. for 2 hrs. After cooling to room temperature, the reaction was diluted with H2O and EtOAc then it was acidified with the addition of 6 M HCl. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organics were diluted with hexanes and washed with H2O and brine, dried over Na2SO4 and filtered through a pad of silica gel on Celite. The filtrate was concentrated in vacuo to give 2-(4-ethoxy-3,5-dimethoxyphenyl)furan as a beige solid (0.513 g, 92% yield). The product was used without further purification.

reactant | 4-(furan-2-yl)-2,6-dimethoxyphenol | 2.24 mmol, 0.493 g | O1C(=CC=C1)C1=CC(=C(C(=C1)OC)O)OC | C12H12O4
reactant | Cs2CO3 | 3.7 mmol, 1.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodoethane | 2.7 mmol, 0.22 mL | ICC | C2H5I
reactant | HCl | 6 M | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-ethoxy-3,5-dimethoxyphenyl)furan | 0.513 g, 92% yield | C(C)OC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C14H16O4
